US08871760B2
To a stirring mixture of NaH (900 mg, 37.5 mmol) in THF (25 mL) at room temperature under N2 atmosphere was added dropwise a solution of (R)-2-amino-2-(3-fluoro-phenyl)-ethanol (4.0 g, 26.4 mmol) in THF (25 mL). The reaction mixture was stirred at room temperature for 30 minutes, then cooled to 0° C. A solution of ethyl chloroacetate (3.31 g g, 27 mmol) in THF (10 mL) was added dropwise, and the reaction mixture was stirred for 25 minutes at 0° C., then stirred at room temperature for two hours. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and a 1:1 mixture of brine and water. The organic layer was separated, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give 1.73 g (34%) of (R)-5-(3-fluoro-phenyl)-morpholin-3-one, MP=119-121° C.

reactant | NaH | 37.5 mmol, 900 mg | [H-].[Na+]
reactant | (R)-2-amino-2-(3-fluoro-phenyl)-ethanol | 26.4 mmol, 4.0 g | N[C@@H](CO)C1=CC(=CC=C1)F | C8H10FNO
reactant | ethyl chloroacetate | 27 mmol, 3.31 g | ClCC(=O)OCC | C4H7ClO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-5-(3-fluoro-phenyl)-morpholin-3-one | 1.73 g, 34% | FC=1C=C(C=CC1)[C@@H]1COCC(N1)=O | C10H10FNO2
